US06770667B1
To a suspension of m-nitroaniline (2.0 g), phosphoric acid (1.67 ml), butane-2,3-dione (1.27 ml) and an aqueous solution of formaldehyde (35% w/w, 1.24 ml) in water (15 ml) was added an aqueous solution of ammonium chloride (5M, 6 ml) dropwise at 100° C. After stirring for 2 hours at 100° C., the mixture was poured into an aqueous saturated sodium hydrogen carbonate solution. The mixture was extracted with ethyl acetate. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified with a silica gel column chromatography eluting with 0-3% methanol/dichloromethane to give 4,5-dimethyl-1-(3-nitrophenyl)imidazole (135 mg, 4.3%).

reactant | m-nitroaniline | 2.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | phosphoric acid | 1.67 ml | P(O)(O)(O)=O | H3O4P
reactant | butane-2,3-dione | 1.27 ml | CC(C(C)=O)=O | C4H6O2
reactant | formaldehyde | 1.24 ml | C=O | CH2O
reactant | ammonium chloride | 5M, 6 ml | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 15 ml | O | H2O
product | 4,5-dimethyl-1-(3-nitrophenyl)imidazole | 135 mg, 4.3% | CC=1N=CN(C1C)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11N3O2
